US08530461B2
(S)—N-(1-{4-[3-(4-Hydroxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
1.3 g (3.12 mmol) (S)—N-(1-{4-[3-(4-Benzyloxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide (Ex. 8.5) and 130 mg Pd/C (10%) in 50 mL MeOH are hydrogenated at 3 bar and 50° C. for 12 h. The mixture is filtered and concentrated in vacuo. The residue is titurated with diisopropyl ether to yield the desired product.

reactant | (S)—N-(1-{4-[3-(4-Benzyloxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | 3.12 mmol, 1.3 g | C(C1=CC=CC=C1)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C26H28N2O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | (S)—N-(1-{4-[3-(4-Hydroxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C19H22N2O3
